US07776857B2
In a nitrogen purged sealed tube was added toluene (1.5 mL), purged the solvent with nitrogen for 5 minutes and sealed the tube. To the tube was added 8-(6-bromopyridin-3-yloxy)-3-methoxy-1,5-naphthyridine (0.100 g, 0.301 mmol), 4-phenylphthalazin-1-amine (0.080 g, 0.361 mmol), sodium tert-butoxide (0.072 g, 0.753 mmol), and the tube was again purged with nitrogen and sealed. Added tBu X-phos (0.013 g, 0.030 mmol), tris(dibenzylideneacetone)dipalladium (o)(0.007 g, 0.008 mmol), purged the reaction with nitrogen, sealed, heated the tube to 100° C., stirring for 24 h. The reaction was cooled to RT, filtered through pad of silica gel, washed with 100% CH2Cl2:MeOH(90:110)/CH2Cl2 and concentrated. The crude was purified using reverse phase chromatography, extracted the concentrated product fractions into DCM, washed the organic layer 1× with sodium carbonate, 1×H2O, dried with Na2SO4, filtered solution through fritted funnel, and concentrated the filtrate to afford N-(5-(7-methoxy-1,5-naphthyridin-4-yloxy)pyridin-2-yl)-4-phenylphthalazin-1-amine as light yellow solid. MS [M+H]=473; Calc'd 472.5 for C28H20N6O2.

reactant | 8-(6-bromopyridin-3-yloxy)-3-methoxy-1,5-naphthyridine | 0.301 mmol, 0.100 g | BrC1=CC=C(C=N1)OC=1C=CN=C2C=C(C=NC12)OC | C14H10BrN3O2
reactant | 4-phenylphthalazin-1-amine | 0.361 mmol, 0.080 g | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N | C14H11N3
reactant | sodium tert-butoxide | 0.753 mmol, 0.072 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 0.007 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(5-(7-methoxy-1,5-naphthyridin-4-yloxy)pyridin-2-yl)-4-phenylphthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C28H20N6O2
